US04272441
PREPARATION OF CARBARYL
A stirred solution of 1-naphthol (86.5 g, 0.6 mole) in 500 g of toluene was heated under nitrogen to 98° C. Phosgene (79.9 g, 0.8 mole) and methylamine (22.0 g, 0.7 mole) were then metered into this solution concurrently and gradually over a period of approximately 6.5 hours. The reaction mixture was filtered hot. The filtrate was then allowed to cool to room temperature, and the crystallized carbaryl was recovered by filtration. The yield of 1-naphthyl methylcarbamate was 78%.

reactant | 1-naphthol | 0.6 mole, 86.5 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | Phosgene | 0.8 mole, 79.9 g | C(=O)(Cl)Cl | CCl2O
reactant | methylamine | 0.7 mole, 22.0 g | CN | CH5N
solvent | toluene | 500 g | C1(=CC=CC=C1)C | C7H8
product | CARBARYL | CNC(=O)OC=1C=CC=C2C1C=CC=C2 | C12H11NO2
